US06476061B1
a) Potassium 3-Cyano-3-(3,4-dichlorophenyl)acrylate
18.6g (0.1 mol) of (3,4-dichlorophenyl)acetonitrile and 35 g (0.25 mol) of potassium carbonate were initially charged in 200 ml of methanol and admixed with 22.2 g (0.15 mol) of 50% strength agueous glyoxylic acid, and the mixture was stirred at room temperature for 5 h. The residue was filtered off, washed with methylene chloride, stirred with 1 l of water at room temperature overnight and filtered off, and the precipitated product was washed with water and dried. Yield 26.2 g, m.p. 235-238° C.

reactant | (3,4-dichlorophenyl)acetonitrile | 0.1 mol, 18.6g | ClC=1C=C(C=CC1Cl)CC#N | C8H5Cl2N
reactant | potassium carbonate | 0.25 mol, 35 g | C([O-])([O-])=O.[K+].[K+]
reactant | glyoxylic acid | C(C=O)(=O)O | C2H2O3
solvent | methanol | 200 ml | CO | CH4O
product | Potassium 3-Cyano-3-(3,4-dichlorophenyl)acrylate | C(#N)C(=CC(=O)[O-])C1=CC(=C(C=C1)Cl)Cl.[K+] | InChI=1S/C10H5Cl2NO2.K/c11-8-2-1-6(3-9(8)12)7(5-13)4-10(14)15;/h1-4H,(H,14,15);/q;+1/p-1
